US04542148
(2,3-Dihydro-2-oxo-3-phenyl-1-indolyl)-acetic acid morpholide (I, R1 =R2 =R3 =R6 =H, R4 +R5 =CH2CH2OCH2CH2 and n=1)
11 g of methyl(2,3-dihydro-2-oxo-3-phenyl-1-indolyl)-acetate were dissolved in 50 ml of morpholine and the mixture was heated under nitrogen on a steam bath for 9 hours and then poured into a mixture of glacial acetic acid and ethyl acetate; the aqueous phase was extracted with methylene chloride and the organic phase was dried and concentrated. The crude product was recrystallized from isopropanol. Melting point 153°-154° C.

reactant | methyl(2,3-dihydro-2-oxo-3-phenyl-1-indolyl)-acetate | 11 g | COC(CN1C(C(C2=CC=CC=C12)C1=CC=CC=C1)=O)=O | C17H15NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | morpholine | 50 ml | N1CCOCC1 | C4H9NO
product | (2,3-Dihydro-2-oxo-3-phenyl-1-indolyl)-acetic acid morpholide | O=C1N(C2=CC=CC=C2C1C1=CC=CC=C1)CC(=O)N1CCOCC1 | C20H20N2O3
